Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
hematuria after TURP
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Clot retention. Unable to void
 
Past Medical History:
LLE DVT x 3, ___ was last. no treatment since then (Coumadin x 
six months)
HTN
s/p APPY
+ smoker
BPH/LUTS
s/p left leg repair
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Gen NAD AAOX3
Non labored breathing on room air
Abd soft NT ND
GU 22fr 3-way catheter in place, 30 cc in balloon, draining 
clear pink urine off CBI, no clots
Ext WWP, no edema/ttp

 
Pertinent Results:
___ 07:45PM BLOOD WBC-11.0* RBC-4.64 Hgb-12.9* Hct-40.1 
MCV-86 MCH-27.8 MCHC-32.2 RDW-14.8 RDWSD-46.7* Plt ___
___ 05:10AM BLOOD WBC-11.0* RBC-4.29* Hgb-11.9* Hct-37.2* 
MCV-87 MCH-27.7 MCHC-32.0 RDW-14.6 RDWSD-46.9* Plt ___

___ 07:50PM URINE Color-Red* Appear-Cloudy* Sp ___
___ 07:50PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 07:50PM URINE RBC->182* WBC-6* Bacteri-MOD* Yeast-NONE 
Epi-0
 
Brief Hospital Course:
Patient s/p TURP ___ admitted ___ with hematuria and clot 
retention. 22fr 3-way catheter placed in ED with hand irrigation 
of 30 cc old clot. CBI started and weaned overnight HD1 with 
appropriate clearing of urine. Bactrim DS started for possible 
UTI. Urine cultures pending. Of note, he did have severe bladder 
spasms during hospital course requiring B+O suppository and 
valium.

Patient discharged HD2, ___, with ___ 3-way catheter in 
place, draining clear pink urine without clots. At time of 
discharge, he was tolerating regular diet, ambulating on his 
own, and pain was well controlled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. nebivolol 5 mg oral DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*5 
2.  Phenazopyridine 200 mg PO TID:PRN bladder discomfort 
Duration: 3 Days 
RX *phenazopyridine 200 mg 1 tablet(s) by mouth every 8 hours 
Disp #*40 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 
4.  TraMADol 50 mg PO Q4H:PRN Pain - Severe 
RX *tramadol 50 mg 1 tablet(s) by mouth every six hours Disp 
#*10 Tablet Refills:*0 
5.  nebivolol 5 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hematuria after TURP
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___